* source DESIGN2
R_R78         N103623 N103359 2.4k 
D_D4         N103487 N103519 MEH_LED 
D_D7         N103487 N103627 MEH_LED 
D_D11         N103487 N103755 MEH_LED 
D_D6         N103487 N103603 MEH_LED 
D_D5         N103487 N103567 MEH_LED 
D_D9         N103487 N103699 MEH_LED 
D_D10         N103487 N103731 MEH_LED 
D_D8         N103487 N103671 MEH_LED 
D_D3         N103487 N103471 MEH_LED 
D_D12         N103487 N103787 MEH_LED 
R_R80         N103487 VCC_SIGNAL 50 
R_R79         GND_EARTH N103623 23k 
