* source SUPERCAP-CAPBOARD
X_D2         V_24 0 Ideal_Zener PARAMS:
+BV=15, VF=0.7
I_I1         0 V_24 DC 5
C_C8         N140150 N15205 98 IC=2.5
R_R2         N14980 N140150 20m 
R_R3         N14992 N142100 18m 
C_C9         N142100 N14980 102 
C_C11         N145860 N15004 90 IC=2.5
R_R4         N15004 N145080 16m 
C_C10         N145080 N14992 105 
R_R5         N15016 N145860 15m 
C_C13         N149020 N15028 95 
C_C12         N148240 N15016 110 
R_R7         0 N149020 18m 
R_R6         N15028 N148240 25m 
X_U3         N20178 N15205 Sw_tClose PARAMS: tClose=1 ttran=1u Rclosed=0.01
+  Ropen=1Meg
R_R9         N15618 N15205 20k 
R_R10         N14980 N15618 7.87k 
R_R11         N15787 N14980 20k 
R_R12         N14992 N15787 7.87k 
R_R14         N15004 N15963 7.87k 
R_R13         N15963 N14992 20k 
R_R16         N15016 N16136 7.87k 
R_R15         N16136 N15004 20k 
R_R17         N16310 N15016 20k 
R_R18         N15028 N16310 7.87k 
R_R20         0 N16483 7.87k 
R_R19         N16483 N15028 20k 
R_R21         0 N15205 10k 
X_U4         N15205 N20048 Sw_tClose PARAMS: tClose=100 ttran=1u Rclosed=0.01
+  Ropen=1Meg
R_R22         0 N20048 4 
X_U5         V_24 N20178 Sw_tOpen PARAMS: tOpen=70 ttran=1u Rclosed=0.01
+  Ropen=1Meg
D_D3         N20048 N202971 MEH_LED 
R_R23         0 N202971  650 TC=0,0 
Q_Q8         N15205 N15618 N14980 BC817-40 
Q_Q9         N14980 N15787 N14992 BC817-40 
Q_Q10         N14992 N15963 N15004 BC817-40 
Q_Q11         N15004 N16136 N15016 BC817-40 
Q_Q12         N15016 N16310 N15028 BC817-40 
Q_Q13         N15028 N16483 0 BC817-40 
